US20010007873A1
EXAMPLE 26 6-[2-CYCLOPENTYL-4-(2-PYRROLIDIN-1YL-ETHOXY)-PHENYL]-PYRIDIN-2-YLAMINE
Prepared as in Example 14G using 4-(6-amino-pyridin-2-yl)-3-cyclopentyl-phenol and 1-(2-chloroethyl)-pyrrolidine in 43% yield.

reactant | 4-(6-amino-pyridin-2-yl)-3-cyclopentyl-phenol | NC1=CC=CC(=N1)C1=C(C=C(C=C1)O)C1CCCC1 | C16H18N2O
reactant | 1-(2-chloroethyl)-pyrrolidine | ClCCN1CCCC1 | C6H12ClN
product | 6-[2-CYCLOPENTYL-4-(2-PYRROLIDIN-1YL-ETHOXY)-PHENYL]-PYRIDIN-2-YLAMINE | 43% yield | C1(CCCC1)C1=C(C=CC(=C1)OCCN1CCCC1)C1=CC=CC(=N1)N | C22H29N3O
